US06936608B2
To a solution of 4-(2-fluoro-5-nitrophenyl)pyridine (1.0 g, 5.58 mmol) in ethanol (30 ml) and ethyl acetate (10 ml) was added platinum(IV) oxide (52 mg) and the mixture stirred for 35 min under hydrogen (40 psi). The reaction was filtered through glass microfibre filter paper and the filtrate evaporated to dryness to give 4-fluoro-3-(pyridin-4-yl)phenylamine (862 mg, 100%) as a white solid: 1H NMR (360 MHz, CDCl3) δ 3.49 (2H, s), 6.66-6.70 (1H, m), 6.71-6.76 (1H, m), 6.99 (1H, t, J 9 Hz), 7.44-7.46 (2H, m), 8.66 (2H, d, J 5 Hz).

reactant | 4-(2-fluoro-5-nitrophenyl)pyridine | 5.58 mmol, 1.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=NC=C1 | C11H7FN2O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum(IV) oxide | 52 mg | [Pt](=O)=O
product | 4-fluoro-3-(pyridin-4-yl)phenylamine | 862 mg, 100% | FC1=C(C=C(C=C1)N)C1=CC=NC=C1 | C11H9FN2
